US08461160B2
Starting from (S)-3-amino-3-(2-fluoro-5-nitro-phenyl)-butyric acid methyl ester (14.8 mmole) and tert-butyl [(methylamino)carbonothioyl]carbamate, the product [(S)-4-(2-fluoro-5-nitro-phenyl)-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester (3.13 g) was obtained as pale yellow foam. MS (ESI): m/z=381.2 [ M+H]+.

reactant | (S)-3-amino-3-(2-fluoro-5-nitro-phenyl)-butyric acid methyl ester | 14.8 mmole | COC(C[C@@](C)(C1=C(C=CC(=C1)[N+](=O)[O-])F)N)=O | C11H13FN2O4
reactant | tert-butyl [(methylamino)carbonothioyl]carbamate | CNC(=S)NC(OC(C)(C)C)=O | C7H14N2O2S
product | [(S)-4-(2-fluoro-5-nitro-phenyl)-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester | 3.13 g | C(C)(C)(C)OC(NC=1N(C(C[C@@](N1)(C)C1=C(C=CC(=C1)[N+](=O)[O-])F)=O)C)=O | C17H21FN4O5
